US04393059
Ethyl 2-iso-butoxyimino-3-oxobutyrate (syn isomer, 42 g.), acetic acid (42 ml.) and sulfuryl chloride (27.1 g.) were treated in a similar manner to that of Example F-(2) to give ethyl 2-iso-butoxyimino-4-chloro-3-oxobutyrate (syn isomer, 31.9 g.).

reactant | Ethyl 2-iso-butoxyimino-3-oxobutyrate | 42 g | C(C(C)C)ON=C(C(=O)OCC)C(C)=O | C10H17NO4
reactant | sulfuryl chloride | 27.1 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 42 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-iso-butoxyimino-4-chloro-3-oxobutyrate | 31.9 g | C(C(C)C)ON=C(C(=O)OCC)C(CCl)=O | C10H16ClNO4
